US03960583
In the film-forming system that we have found of particular advantage in carrying out our invention comprising a homogeneous solution of sodium silicate and a polysalt, the ratio of a polysalt solids to silicate solids should be between 0.02/1.0 and 3.0/1.0. If a solution of ammonium pentaborate and sodium silicate is used the solids would be 5 to 35% with 3 to 15% ammonium pentaborate (APB) with a ratio of APB solids to sodium silicate solids between 0.03:1 and 0.5:1 and preferably 0.06:1 and 0.5:1. Therefore the suspension-solution using such a film-forming system would have the following composition. The total solids (film-forming + particulate) are 5.25 to 68%, the dissolved film-forming solids (APB + silicate) are 5.0 to 34.5% with 2.4 to 12% dissolved APB solids, and the suspended particulate solids are 0.25 to 51.2%. A system including sodium pentaborate (SPB) would have a ratio of SPB solids to sodium silicate between 0.02:1 and 0.3:1 and the suspension-solution would have the following composition. The total solids (film-forming + particulate) are 18.2 to 68%, the dissolved film-forming solids (SPB + silicate) are 17.4 to 34.5% with 6 to 7% SPB and the suspended particulate solids is 0.9 to 51.2%. A system with sodium hexametaphosphate (SHP) would have a ratio of SHP solids to sodium silicate solids between 1:1 and 3:1 and the suspension-solution would have the following composition. The total solids (film-forming + particulate) are 31 to 80%, the dissolved film-forming solids (SHP + silicate) are 29.6 to 48% and the suspended particulate solids are 1.5 to 60%.

reactant | SPB | B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+]
reactant | sodium hexametaphosphate | [O-]P1(=O)OP(=O)(OP(=O)(OP(=O)(OP(=O)(OP(=O)(O1)[O-])[O-])[O-])[O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+]
reactant | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+]
product | SHP silicate | [O-]P1(=O)OP(=O)(OP(=O)(OP(=O)(OP(=O)(OP(=O)(O1)[O-])[O-])[O-])[O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Si]([O-])([O-])([O-])[O-] | InChI=1S/6Na.H6O18P6.O4Si/c;;;;;;1-19(2)13-20(3,4)15-22(7,8)17-24(11,12)18-23(9,10)16-21(5,6)14-19;1-5(2,3)4/h;;;;;;(H,1,2)(H,3,4)(H,5,6)(H,7,8)(H,9,10)(H,11,12);/q6*+1;;-4/p-6
